US07294637B2
1-[1-(4-Chloro-phenyl)-cyclobutylmethyl]-3-(4-trifluoromethyl-phenoxymethyl)-azepane (168)
To a stirring 0° C. solution of [1-(4-Chloro-phenyl)-cyclobutyl]-[3-(4-trifluoromethylphenoxymethyl)-azepan-1-yl]-methanone (0.13 g, 0.28 mmol) under N2 in toluene (2.8 mL, 0.1M) was added sodium bis(2-methoxyethoxy)aluminum hydride (65+weight % in toluene) (0.30 mL, 0.98 mmol) dropwise with stirring. When the reaction was complete by HPLC, the reaction was quenched with H2O. 10% NaOH and ethyl acetate were added, and the organic was removed, dried with Na2SO4, and concentrated. The crude reaction mixture was purified by silica gel chromatography (90:8:2 Hexanes: methylene chloride: 2N NH3 in ethyl alcohol). A 40% yield (0.0504 g) of pure material was obtained as well as other impure fractions. 1H NMR (CDCl3, 300 MHz) 7.54 (2H, d, J=8.9 Hz), 7.22 (2H, d, J=8.4 Hz), 7.09 (2H, d, J=8.3 Hz), 6.87 (2H, d, J=8.8 Hz), 3.62-3.45 (2H, m), 2.89 (1H, d, J=13.7 Hz), 2.80 (1H, d, J=13.7 Hz), 2.60 (1H, td, J=13.3, 3.7 Hz), 2.55-2.36 (3H, m), 2.30-2.10 (4H, m), 2.08-1.90 (2H, m), 1.90-1.25 (7H, m) ppm. 13C NMR (CDCl3, 75 MHz) 161.75, 148.53, 130.96, 128.00, 127.91, 127.03, 126.98, 122.98, 114.61, 71.38, 70.53, 60.37, 58.87, 48.07, 39.52, 31.84, 31.64, 30.23, 29.50, 24.97, 16.24 ppm. LRMS: 451.53.

reactant | [1-(4-Chloro-phenyl)-cyclobutyl]-[3-(4-trifluoromethylphenoxymethyl)-azepan-1-yl]-methanone | 0.28 mmol, 0.13 g | ClC1=CC=C(C=C1)C1(CCC1)C(=O)N1CC(CCCC1)COC1=CC=C(C=C1)C(F)(F)F | C25H27ClF3NO2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | 0.98 mmol, 0.30 mL | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | toluene | 0.1M, 2.8 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[1-(4-Chloro-phenyl)-cyclobutylmethyl]-3-(4-trifluoromethyl-phenoxymethyl)-azepane | 0.0504 g, 40% yield | ClC1=CC=C(C=C1)C1(CCC1)CN1CC(CCCC1)COC1=CC=C(C=C1)C(F)(F)F | C25H29ClF3NO
